US09169249B2
To a CH2Cl2 (10 ml) solution of 2-((R)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidin-2-yl)acetic acid and hydroxylamine hydrogen chloride (713.8 mg, 7.32 mmol), EDCI.HCl (1.64 g, 8.54 mmol) and NMM (1.5 ml, 13.4 mmol) were added, the reaction mixture was stirred at room temperature for 15 hours. The reaction went to completion monitored by LC-MS and was quenched by addition of saturated aqueous NaHCO3 solution (˜25 ml). Two layers were separated, aqueous layer was extracted with CH2Cl2 (˜20 ml). Organic layers were combined, dried (Na2SO4), filtered, solvent was removed in vacuo. Crude product was purified by silica gel chromatography (Hexane/EtOAc, gradient from 100:0 to 70:30). Compound (R)-tert-butyl 2-((N-methoxy-N-methylcarbamoyl)methyl)-4,4-difluoropyrrolidine-1-carboxylate was obtained as a light yellow oil: 1.20 g; additional product was obtained from recovered carboxylic acid: 0.2 g (53% combined overall yield over 2 steps).

reactant | 2-((R)-1-(tert-butoxycarbonyl)-4,4-difluoropyrrolidin-2-yl)acetic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)CC(=O)O | C11H17F2NO4
reactant | hydroxylamine hydrogen chloride | 7.32 mmol, 713.8 mg | Cl.NO
reactant | EDCI.HCl | 8.54 mmol, 1.64 g | CCN=C=NCCCN(C)C.Cl
reactant | NMM | 13.4 mmol, 1.5 ml | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2-((N-methoxy-N-methylcarbamoyl)methyl)-4,4-difluoropyrrolidine-1-carboxylate | CON(C(=O)C[C@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C)C | C13H22F2N2O4
